US04149005
In the same apparatus and according to the same modalities as in Example 1, 1.95 g (0.01 mole) of 1-(p-chlorophenyl)-3-amino-2-pyrazoline were suspended in 12 ml of ethanol and 0.1 ml of pyridine with addition of 0.1 g of CuCl, under an oxygen head. Oxidation was completed after about 10 hours. The oxidized product was isolated as in Example 2, thus obtaining 1 g of 1-(p-chlorophenyl)-3-amino-pyrazole of melting point 107°-108° C.

reactant | 1-(p-chlorophenyl)-3-amino-2-pyrazoline | 0.01 mole, 1.95 g | ClC1=CC=C(C=C1)N1N=C(CC1)N | C9H10ClN3
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | CuCl | 0.1 g | Cl[Cu]
product | 1-(p-chlorophenyl)-3-amino-pyrazole | 1 g | ClC1=CC=C(C=C1)N1N=C(C=C1)N | C9H8ClN3
